US07179823B1
Sodium hydride (60%, oily, 0.17 g) was added to a mixture of ethyl diethylphosphonoacetate (1.00 g) and N,N-dimethylformamide (5 ml) at 0° C., and the mixture was stirred at room temperature for 30 minutes. A solution of 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenylpyrrole-3-carbaldehyde (1.65° g) in N,N-dimethylformamide (10 ml) was added slowly to the mixture, which was stirred at room temperature for 3 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatograpy, and ethyl(E)-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-(2-pyridyl)-3-pyrrolyl]propenoate (1.83 g, yield: 96%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:1 volume ratio).

reactant | Sodium hydride | 0.17 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 1.00 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenylpyrrole-3-carbaldehyde | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)C=O)C=C1 | C29H24N2O3
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl(E)-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-(2-pyridyl)-3-pyrrolyl]propenoate | 1.83 g, yield: 96% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=NC=CC=C2)/C=C/C(=O)OCC)C=C1 | C32H29N3O4
